US08445523B2
2.8 g (34.5 mmol, 1.6 eq.) of potassium cyanate are added at 30° C. to a solution of 5 g (21.6 mmol, 1 eq.) of 1-(6-methoxypyridin-3-ylamino)-cyclohexanecarbonitrile in 50 ml of glacial acetic acid. The reaction medium is stirred at 60° C. for 4 hours. 8 ml of hydrochloric acid and then 5 ml of water are added. The medium is heated at 90° C. for 1 hour and then at room temperature for 24 hours. It is then poured into 30 ml of water. The aqueous phase is extracted with ethyl acetate. The organic phases are combined and washed with water. They are dried over sodium sulfate. The solvents are evaporated off. The residue is chromatographed on silica gel (90/10 dichloromethane/methanol). The product is precipitated from dichloromethane and heptane and then filtered off and dried. 1-(6-Methoxypyridin-3-yl)-1,3-diaza-spiro[4.5]decane-2,4-dione is obtained in the form of a white solid.

reactant | potassium cyanate | 34.5 mmol, 2.8 g, 1.6 eq. | [O-]C#N.[K+]
reactant | 1-(6-methoxypyridin-3-ylamino)-cyclohexanecarbonitrile | 21.6 mmol, 5 g, 1 eq. | COC1=CC=C(C=N1)NC1(CCCCC1)C#N | C13H17N3O
reactant | hydrochloric acid | 8 ml | Cl | ClH
reactant | water | 5 ml | O | H2O
reactant | water | 30 ml | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 1-(6-Methoxypyridin-3-yl)-1,3-diaza-spiro[4.5]decane-2,4-dione | COC1=CC=C(C=N1)N1C(NC(C12CCCCC2)=O)=O | C14H17N3O3
